US08748613B2
Methyl 2-(3-fluorophenyl)-2-(piperidin-1-yl)acetate (224 mg, 0.89 mmol) and 37% HCl (813 μl, 26.7 mmol) were dissolved in dioxane (3 ml) and stirred under microwave irradiation at 100° C. for 6 hours. The solvents were evaporated and the residue was triturated with Et2O and sonicated. The solid was collected by suction filtration, washed with Et2O and dried under vacuum overnight to collect 2-(3-fluorophenyl)-2-(piperidin-1-yl)acetic acid hydrochloride (230 mg, 94% yield).

reactant | Methyl 2-(3-fluorophenyl)-2-(piperidin-1-yl)acetate | 0.89 mmol, 224 mg | FC=1C=C(C=CC1)C(C(=O)OC)N1CCCCC1 | C14H18FNO2
reactant | HCl | 26.7 mmol, 813 μl | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 2-(3-fluorophenyl)-2-(piperidin-1-yl)acetic acid hydrochloride | 230 mg, 94% yield | Cl.FC=1C=C(C=CC1)C(C(=O)O)N1CCCCC1 | InChI=1S/C13H16FNO2.ClH/c14-11-6-4-5-10(9-11)12(13(16)17)15-7-2-1-3-8-15;/h4-6,9,12H,1-3,7-8H2,(H,16,17);1H
